US07141561B2
1-Formyl-2-(4-phenoxyphenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]semicarbazide
Palladium(II) hydroxide (60 mg) and formic acid (4.6 g) were added to a solution of 1-benzylidene-2-(4-phenoxyphenyl)-4-[4-(2-dimethylamino-ethoxy)phenyl]semicarbazide (600 mg) in tetrahydrofuran/ethanol (1:1, 30 mL). The mixture was heated under reflux for five hours and then filtered. The filtrate was concentrated and the residue was purified by HPLC. The product with the molecular weight of 434.50 (C24H26N4O4); MS (ESI): 435 ([M+H]+), was obtained in this way.

reactant | formic acid | 4.6 g | C(=O)O | CH2O2
reactant | 1-benzylidene-2-(4-phenoxyphenyl)-4-[4-(2-dimethylamino-ethoxy)phenyl]semicarbazide | 600 mg | C(C1=CC=CC=C1)=NN(C(=O)NC1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C30H30N4O3
solvent | tetrahydrofuran ethanol | 30 mL | O1CCCC1.C(C)O
catalyst | Palladium(II) hydroxide | 60 mg | [OH-].[Pd+2].[OH-]
product | 1-Formyl-2-(4-phenoxyphenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]semicarbazide | C(=O)NN(C(=O)NC1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H26N4O4
